US07553854B2
A solution of (S)—N-(1-(ethylsulfonyl)piperidin-3-yl)-6-methoxybenzo[d]thiazol-2-amine (1.22 g, 3.43 mmol) in dichloromethane (25 ml) under nitrogen atmosphere was treated with boron tribromide (1M in dichloromethane, 7.5 ml) at 0° C. Stirring was continued for 10 min at 0° C. and for 135 min at ambient temperature. The reaction mixture was carefully diluted with water (50 ml), ethyl acetate (200 ml) and treated with solid sodium bicarbonate (until no further gas development was observed). The mixture was stirred until phases became clear. The separated organic phase was washed with saturated sodium bicarbonate solution (2×75 ml), water (75 ml), brine (75 ml) and dried over sodium sulfate. Concentration in vacuo afforded crude (S)-2-(1-(ethylsulfonyl)piperidin-3-ylamino)benzo[d]thiazol-6-ol which was used in the next step without further purification. Yield: 1.15 g. ES/MS m/z 342.0 (MH+), Rt=1.86 min.

reactant | (S)—N-(1-(ethylsulfonyl)piperidin-3-yl)-6-methoxybenzo[d]thiazol-2-amine | 3.43 mmol, 1.22 g | C(C)S(=O)(=O)N1C[C@H](CCC1)NC=1SC2=C(N1)C=CC(=C2)OC | C15H21N3O3S2
reactant | boron tribromide | 1M, 7.5 ml | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (S)-2-(1-(ethylsulfonyl)piperidin-3-ylamino)benzo[d]thiazol-6-ol | C(C)S(=O)(=O)N1C[C@H](CCC1)NC=1SC2=C(N1)C=CC(=C2)O | C14H19N3O3S2
